US04939133
N-[4-[2-(3,4-dimethoxyphenyl)ethyl]phenyl]-3-(1,1-dimethylethyl)-2-hydroxy-α-oxo-benzeneacetamide
A solution of 7-(1,1-dimethylethyl)-2,3-benzofurandione (1.0 g, 5 mmol) and 4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine (1.0 g, 4 mmol) in 10 ml of dichloromethane is stirred at room temperature for 48 hours. The solvent is evaporated and the residue crystallized from ether/hexane. Recrystallization from acetonitrile gave the pure product, (1.0 g) mp 143°-144° C.

reactant | 7-(1,1-dimethylethyl)-2,3-benzofurandione | 5 mmol, 1.0 g | CC(C)(C)C1=CC=CC=2C(C(OC21)=O)=O | C12H12O3
reactant | 4-[2-(3,4-dimethoxyphenyl)ethyl]benzenamine | 4 mmol, 1.0 g | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)N | C16H19NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-[2-(3,4-dimethoxyphenyl)ethyl]phenyl]-3-(1,1-dimethylethyl)-2-hydroxy-α-oxo-benzeneacetamide | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)NC(C(C1=C(C(=CC=C1)C(C)(C)C)O)=O)=O | C28H31NO5
